US08530461B2
a) 2-Acetylamino-oxazole-4-carboxylic acid ethyl ester
1.0 g (6.40 mmol) 2-Amino-oxazole-4-carboxylic acid ethyl ester and 9.1 mL (96.3 mmol) acetic acid anhydride are stirred for 2 d at rt. The mixture is concentrated in vacuo to yield the desired product which is used without further purification.

reactant | 2-Amino-oxazole-4-carboxylic acid ethyl ester | 6.40 mmol, 1.0 g | C(C)OC(=O)C=1N=C(OC1)N | C6H8N2O3
reactant | acetic acid anhydride | 96.3 mmol, 9.1 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylamino-oxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(OC1)NC(C)=O | C8H10N2O4
